US07531657B2
(S)-3-benzyloxycarbonylamino-1-diaminophosphinyl-2-piperidone
600 g (2.42 mol) of (S)-3-benzyloxycarbonylamino-2-piperidone was added to 6 L of toluene and 823 mL (4.80 mol) of diisopropylethylamine, subsequently 612 mL (4.80 mol) of trimethylsilyl chloride was added dropwise, and the solution was stirred at room temperature for 24 hours. Subsequently, 894 mL (9.60 mol) of phosphorus oxychloride was added dropwise, and the solution was stirred at room temperature for 48 hours. An ammonia water adjusted to a pH of about 10 with ammonium chloride was cooled to −10° C. or lower, and the reacted solution was added dropwise into it. When the pH falls to less than 9, the ammonia water was added. The obtained suspension was filtered, and the residue was washed with 3 L of toluene, subsequently 2 L of a toluene-THF mixed solvent, and then extracted with 10 L of a THF-methanol mixed solvent. The extracted liquid was vacuum-concentrated, the residue was washed with 6 L of water and suspension-purified with 10 L of an ethanol-diisopropylether mixed solvent, and 345.7 g of (S)-3-benzyloxycarbonylamino-1-diamino phosphinyl-2-piperidone (1.06 mol and a yield of 43.8%) was obtained.

reactant | (S)-3-benzyloxycarbonylamino-2-piperidone | 2.42 mol, 600 g | C(C1=CC=CC=C1)OC(=O)N[C@@H]1C(NCCC1)=O | C13H16N2O3
reactant | diisopropylethylamine | 4.80 mol, 823 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | trimethylsilyl chloride | 4.80 mol, 612 mL | C[Si](C)(C)Cl | C3H9ClSi
reactant | phosphorus oxychloride | 9.60 mol, 894 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | ammonia water | O.N
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | toluene | 6 L | C1(=CC=CC=C1)C | C7H8
product | (S)-3-benzyloxycarbonylamino-1-diaminophosphinyl-2-piperidone | yield of 43.8% | C(C1=CC=CC=C1)OC(=O)N[C@@H]1C(N(CCC1)P(=O)(N)N)=O | C13H19N4O4P
